US09290517B2
Step A: 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetic acid
Sodium periodate (19.4 mg, 0.091 mmol) and ruthenium (III) chloride hydrate (1.3 mg, 5.77 μmol) were added to a stirred biphasic mixture of 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde (13.8 mg, 0.022 mmol) in carbon tetrachloride (0.12 ml), acetonitrile (0.09 ml), and water (0.15 ml). The reaction mixture was stirred at room temperature. After 3 hours, the reaction mixture was partitioned between EtOAc (30 ml) and water (30 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×20 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a colorless residue. The residue was dissolved in EtOAc and loaded onto a 500 micron 20 cm×20 cm silica gel plate, which was developed twice using a 94:5:1 DCM/MeOH/AcOH solvent mixture (fresh solvent was used for each development). The silica containing the product band was collected and eluted with a 90:9:1 DCM/MeOH/AcOH solvent mixture (80 ml). The solvent was evaporated under reduced pressure to give the desired product as a colorless residue. LC-MS: calculated for C32H36ClN3O7Si 637.2 observed m/e: 638.33 (M+H)+ (Rt 1.35/2 min)

reactant | Sodium periodate | 0.091 mmol, 19.4 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde | 0.022 mmol, 13.8 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1OCC=O | C32H36ClN3O6Si
reactant | water | 0.15 ml | O | H2O
solvent | carbon tetrachloride | 0.12 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 0.09 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM MeOH AcOH | C(Cl)Cl.CO.CC(=O)O
catalyst | ruthenium (III) chloride hydrate | 5.77 μmol, 1.3 mg | O.[Ru](Cl)(Cl)Cl
product | 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetic acid | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1OCC(=O)O | C32H36ClN3O7Si
